US07829580B2
(4R)-(E)-3-{[1-(2-Carboxyethyl)-1H-pyrazol-3-yl]methylidene}-1-[(1RS)-2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-17)
(4R)-(E)-1-[(1RS)-2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene)-4-sulfanylpiperidine hydrochloride (424.2 mg) was subjected to the reaction similar to that described in Example 134 and the crude product thus obtained was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 30/70, v/v) to afford the title compound (369 mg, yield: 92%) as a colourless amorphous solid.

reactant | (4R)-(E)-1-[(1RS)-2-Cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-({1-[2-(ethoxycarbonyl)ethyl]-1H-pyrazol-3-yl}methylidene)-4-sulfanylpiperidine hydrochloride | 424.2 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\[C@@H](CC1)S)=C/C1=NN(C=C1)CCC(=O)OCC)=O
solvent | acetonitrile | 0.024 N | C(C)#N | C2H3N
product | (4R)-(E)-3-{[1-(2-Carboxyethyl)-1H-pyrazol-3-yl]methylidene}-1-[(1RS)-2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 369 mg, yield: 92% | Cl.C(=O)(O)CCN1N=C(C=C1)\C=C\1/CN(CC[C@H]1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C23H26FN3O3S.ClH/c24-19-4-2-1-3-18(19)22(23(30)15-5-6-15)26-10-8-20(31)16(14-26)13-17-7-11-27(25-17)12-9-21(28)29;/h1-4,7,11,13,15,20,22,31H,5-6,8-10,12,14H2,(H,28,29);1H/b16-13+;/t20-,22?;/m1./s1
